US07138533B2
trans-8-{[4-(Aminomethyl)cyclohexyl]carbonyl}-1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-4-one hydrochloride
Concentrated hydrochloric acid (100 ml) was added to trans-N-({4-[(4-oxo-1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-8-yl)carbonyl]cyclohexyl}methyl)acetamide (12.0 g) obtained in Reference Example 77, and the mixture was stirred at 140° C. for 12 hours. Hydrochloric acid was evaporated under reduced pressure to give white powders. Further recrystallization from water-isopropyl ether afforded the title compound as colorless crystals (9.40 g) having a melting point, of 255 to 257° C.

reactant | trans-N-({4-[(4-oxo-1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-8-yl)carbonyl]cyclohexyl}methyl)acetamide | 12.0 g | O=C1N2C3=C(C=C(C=C3CC1)C(=O)[C@@H]1CC[C@H](CC1)CNC(C)=O)CC2 | C21H26N2O3
reactant | hydrochloric acid | 100 ml | Cl | ClH
product | trans-8-{[4-(Aminomethyl)cyclohexyl]carbonyl}-1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-4-one hydrochloride | 9.40 g | Cl.NC[C@@H]1CC[C@H](CC1)C(=O)C=1C=C2CCC(N3C2=C(C1)CC3)=O | InChI=1S/C19H24N2O2.ClH/c20-11-12-1-3-13(4-2-12)19(23)16-9-14-5-6-17(22)21-8-7-15(10-16)18(14)21;/h9-10,12-13H,1-8,11,20H2;1H/t12-,13-;
